US07018988B2
(2S,4EZ)-N-[(2RS)-2-hydroxy-2-phenylethyl]-1-[(2′-methoxy[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2′-methoxy[1,1′-biphenyl]-4-carboxylic acid, and (1RS)-2-amino-1-phenylethanol, the title compound was obtained in 82% purity by HPLC. MS(ESI+): m/z=488.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2′-methoxy[1,1′-biphenyl]-4-carboxylic acid | COC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C14H12O3
reactant | (1RS)-2-amino-1-phenylethanol | NCC(O)C1=CC=CC=C1 | C8H11NO
product | (2S,4EZ)-N-[(2RS)-2-hydroxy-2-phenylethyl]-1-[(2′-methoxy[1,1′-biphenyl]-4-yl)carbonyl]-4-(methoxyimino)-2-pyrrolidinecarboxamide | OC(CNC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C28H29N3O5
